US07723329B2
Sodium azide (0.425 g, 6.54 mmol) was added to a solution of toluene-4-sulfonic acid 3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl ester (1.16 g, 2.16 mmol) in DMF (20 mL). The reaction mixture was stirred at 80° C. for 15 hours in a sealed tube. After cooling to ambient temperature, it was poured into excess water and extracted with ethyl acetate. The organic phase was washed with 10% ammonium chloride/water solution, water and brine. It was dried with anhydrous magnesium sulfate, filtered, concentrated and dried at 73° C. in vacuo for 45 minutes to yield 5-(3-azido-propoxy)-3-(naphthalene-1-sulfonyl)-1H-indazole as an amber gum (0.770 g, 87.7%); Mass Spectrum (−EI, [M−H]−) m/z 406. 1HNMR (400 MHz, DMSO-d6): δ14.05 (br, 1H), 8.64-8.68 (m, 1H), 8.53 (dd, 1H, J=7.42 Hz and 1.16 Hz), 8.25-8.28 (m, 1H), 8.01-8.05 (m, 1H), 7.70-7.74 (m, 1H), 7.52-7.64 (m, 3H), 7.26 (d, 1H, J=2.08 Hz), 7.08 (dd, 1H, J=9.16 Hz and 2.32 Hz), 4.06 (t, 2H, J=6.14 Hz), 3.49-3.52 (m, 2H), 1.96-1.99 ppm (m, 2H).

reactant | Sodium azide | 6.54 mmol, 0.425 g | [N-]=[N+]=[N-].[Na+]
reactant | toluene-4-sulfonic acid 3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl ester | 2.16 mmol, 1.16 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCCOS(=O)(=O)C1=CC=C(C=C1)C | C27H24N2O6S2
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-(3-azido-propoxy)-3-(naphthalene-1-sulfonyl)-1H-indazole | 0.770 g, 87.7% | N(=[N+]=[N-])CCCOC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C20H17N5O3S
